US04997840
A solution of methanesulphonic anhydride (3.05 g) in dichloromethane (10 ml) was added to a mixture of 4-hydroxy-7-phenylquinoline-1-oxide (3.28 g), potassium carbonate (2.13 g) and dichloromethane (160 ml) at 0°, the mixture was stirred at 0° for 2 hours, then allowed to warm to room temperature. Water (250 ml) was added, the layers were separated and the aqueous layer was extracted with dichloromethane (3×100 ml). The combined dichloromethane layer and extracts were dried over magnesium sulphate and the solvent was removed by distillation. The residue was subjected to flash chromatography on two successive silica gel columns eluted with dichloromethane: industrial methylated spirit (19:1) to give crude 4-hydroxy-7-phenylquinol-3-yl methanesulphonate.

reactant | methanesulphonic anhydride | 3.05 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 4-hydroxy-7-phenylquinoline-1-oxide | 3.28 g | OC1=CC=[N+](C2=CC(=CC=C12)C1=CC=CC=C1)[O-] | C15H11NO2
reactant | potassium carbonate | 2.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 250 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | 4-hydroxy-7-phenylquinol-3-yl methanesulphonate | CS(=O)(=O)OC=1C=NC2=CC(=CC=C2C1O)C1=CC=CC=C1 | C16H13NO4S
